US05364856
Preparation of (-) (4R)-6-(2-oxazolyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole
A solution of 0.65 g (2.0 mmol) of (-) (2aR,4S)-6-(2-oxazolyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole in 30 ml of CH2Cl2 was sonicated (50-55 KHz) in the presence of 2.5 g of MnO2 for 5 hours. The oxidant was removed by filtration through celite. The crude product obtained after filtering and removing the solvent was chromatographed over 15 g of silica gel using 1:9 EtOAc/toluene, then crystallized from isooctane to provide 0.24 g of title compound.

reactant | (-) (2aR,4S)-6-(2-oxazolyl)-4-(di-n-propylamino)-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 2.0 mmol, 0.65 g | O1C(=NC=C1)C1=C2C=3[C@H](CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C20H27N3O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 2.5 g | O=[Mn]=O
product | (-) (4R)-6-(2-oxazolyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole | 0.24 g | O1C(=NC=C1)C1=C2C=3C(=CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C20H25N3O
